US08614215B2
Intermediate 3: 1-(4-methoxy-2-nitrobenzyl)-4-methylpiperazine
To a solution of N-methyl piperazine (5.7 g; 57 mmol; 2 eq) in dry DCM (150 mL) are added Et3N (5.75 g; 57 mmol; 2 eq) and 1-(bromomethyl)-4-methoxy-2-nitrobenzene (7 g; 28.5 mmol; 1 eq). The mixture is stirred at room temperature for 8 h then diluted with water (150 mL). The organic phase is washed with brine and dried. The solvent is removed under vacuum to afford 6.5 g (86%) of the title compound as a viscous liquid. 1H NMR (CDCl3, 400 MHz) δ 7.46-7.44 (m, 1H), 7.34 (s, 1H), 7.08-7.05 (m, 1H), 3.86 (s, 3H), 3.73 (s, 2H), 2.54-2.46 (very br s, 8H), 2.29 (s, 3H). LC/MS (ES+): 266.0.

reactant | N-methyl piperazine | 57 mmol, 5.7 g, 2 eq | CN1CCNCC1 | C5H12N2
reactant | Et3N | 57 mmol, 5.75 g, 2 eq | CCN(CC)CC | C6H15N
reactant | 1-(bromomethyl)-4-methoxy-2-nitrobenzene | 28.5 mmol, 7 g, 1 eq | BrCC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C8H8BrNO3
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | water | 150 mL | O | H2O
product | 1-(4-methoxy-2-nitrobenzyl)-4-methylpiperazine | 6.5 g, 86% | COC1=CC(=C(CN2CCN(CC2)C)C=C1)[N+](=O)[O-] | C13H19N3O3
